### ISSUE TITLE
Confusing error: tactic 'simp' failed, metavariable has already been assigned

### ISSUE THREAD

**Issue by astahfrom** [JLimperg/aesop#12]
Commit: 3d7ae7fa4a1ddb3ae0448d82d65c0acf2e031351

Aesop fails to find the proof in the following example with a confusing error message:

```lean
attribute [aesop unsafe 50% constructors] List.Mem

@[aesop safe [constructors, (cases (patterns := [All _ [], All _ (_ :: _)]))]]
inductive All (P : α → Prop) : List α → Prop where
  | none : All P []
  | more (x xs) : P x → All P xs → All P (x :: xs)

theorem weaken (P Q : α → Prop) (wk : ∀ x, P x → Q x) (xs : List α) (h : All P xs)
  : All Q xs := by
  induction h <;> aesop

theorem in_self (xs : List α) : All (· ∈ xs) xs := by
  induction xs
  case nil =>
    aesop
  case cons x xs ih =>
    have wk : ∀ a, a ∈ xs → a ∈ x :: xs := by aesop
    have ih' : All (fun a => a ∈ x :: xs) xs := by
      -- aesop (add unsafe apply 50% weaken) -- Fails
      apply weaken (· ∈ xs) (· ∈ x :: xs) wk xs ih -- Succeeds
    aesop
```

The error is:

```
tactic 'simp' failed, metavariable has already been assigned
case P
α : Type u_1
x : α
xs : List α
ih : All (fun a => a ∈ xs) xs
wk : ∀ (a : α), a ∈ xs → a ∈ x :: xs
⊢ α → Prop

After applying safe rules, Aesop tried to solve these goals:

(unknown)
α : Type u_1
x : α
xs : List α
ih : All (fun a => a ∈ xs) xs
wk : ∀ (a : α), a ∈ xs → a ∈ x :: xs
⊢ All (fun a => a ∈ x :: xs) xs
```

The following attempt gives the more informative error "aesop: the goal contains metavariables, which is not currently supported.":

```lean
theorem in_self (xs : List α) : All (· ∈ xs) xs := by
  induction xs
  case nil =>
    aesop
  case cons x xs ih =>
    have wk : ∀ a, a ∈ xs → a ∈ x :: xs := by aesop
    have ih' : All (fun a => a ∈ x :: xs) xs := by
      apply weaken
      aesop -- Fails
```
